US07365088B2
(iv) 3-[4-(3-Oxo-morpholin-4-yl)-phenylcarbamoyl]-1H-indazole-5-carboxylic acid methyl ester
To a solution of 60 mg 1H-Indazole-3,5-dicarboxylic acid 5-methyl ester and 52 mg 4-(4-Amino-phenyl)-morpholin-3-one in 2 mL DCM, 68 mg BOP-Cl and 0.15 mL NEt3 were added and the mixture was stirred for 16 h at RT. Then after the reaction mixture was diluted with 20 mL DCM, the solution was washed with 15 mL of water. The organic phase was dried over MgSO4 and after filtration concentrated under reduced pressure. The crude product was subjected to the next reaction step without further purification. Yield: 71 mg.

reactant | 1H-Indazole-3,5-dicarboxylic acid 5-methyl ester | 60 mg | COC(=O)C=1C=C2C(=NNC2=CC1)C(=O)O | C10H8N2O4
reactant | 4-(4-Amino-phenyl)-morpholin-3-one | 52 mg | NC1=CC=C(C=C1)N1C(COCC1)=O | C10H12N2O2
reactant | BOP-Cl | 68 mg | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
reactant | NEt3 | 0.15 mL | CCN(CC)CC | C6H15N
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-[4-(3-Oxo-morpholin-4-yl)-phenylcarbamoyl]-1H-indazole-5-carboxylic acid methyl ester | COC(=O)C=1C=C2C(=NNC2=CC1)C(NC1=CC=C(C=C1)N1C(COCC1)=O)=O | C20H18N4O5
